US07902191B2
(2-Pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-(6-pyrrolidin-1-yl-5,6,7,8-tetrahydro-naphthalen-2-yl)-methanone is prepared from 1-(6-bromo-1,2,3,4-tetrahydro-naphthalen-2-yl)-pyrrolidine and (S)-(+)-1-(2-pyrrolidinylmethyl)-pyrrolidine in a manner substantially analogous to Procedure A. (See herein Example 1). Starting material, (6-bromo-1,2,3,4-tetrahydro-naphthalen-2-yl)-pyrrolidine, was prepared from 6-bromo-2-tetralone and pyrrolidine in a manner substantially analogous to Preparation 1. Mass Spectrum (APCI) 382 (M++1).

reactant | 1-(6-bromo-1,2,3,4-tetrahydro-naphthalen-2-yl)-pyrrolidine | BrC=1C=C2CCC(CC2=CC1)N1CCCC1 | C14H18BrN
reactant | (S)-(+)-1-(2-pyrrolidinylmethyl)-pyrrolidine | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
reactant | 6-bromo-2-tetralone | BrC=1C=C2CCC(CC2=CC1)=O | C10H9BrO
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (2-Pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-(6-pyrrolidin-1-yl-5,6,7,8-tetrahydro-naphthalen-2-yl)-methanone | N1(CCCC1)CC1N(CCC1)C(=O)C1=CC=2CCC(CC2C=C1)N1CCCC1 | C24H35N3O
